US04818765
To a solution of n-octyl (1,3-dithian-2-ylidene)-(3-trifluoromethylphenyl)-acetate (15 g) in ethanol (375 ml), a 30% solution of potassium hydroxide in water (375 ml) is added. The mixture is refluxed for 2 hours. The solvents are removed in vacuo. Water (500 ml) and ether (500 ml) are added. The water solution is acidified to pH 4 with 5N sulphuric acid. The phases are separated and the water solution is extracted with ether (3×350 ml). The combined organic solutions are dried over magnesium sulphate and the solvent is evaporated in vacuo. The residue is triturated in petrol ether (b.p. 40°-65° ) and dried in vacuo to constant weight to give (1,3-dithian-2-ylidene)-(3-trifluoromethylphenyl)-acetic acid, m.p. 165°-166° C.

reactant | n-octyl (1,3-dithian-2-ylidene)-(3-trifluoromethylphenyl)-acetate | 15 g | S1C(SCCC1)=C(C(=O)OCCCCCCCC)C1=CC(=CC=C1)C(F)(F)F | C21H27F3O2S2
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | 375 ml | C(C)O | C2H6O
solvent | water | 375 ml | O | H2O
product | (1,3-dithian-2-ylidene)-(3-trifluoromethylphenyl)-acetic acid | S1C(SCCC1)=C(C(=O)O)C1=CC(=CC=C1)C(F)(F)F | C13H11F3O2S2
